US07795283B2
Intermediate 39: 4-(3-Chloro-5-nitropyridin-2-yl)morpholine
2,3-Dichloro-5-nitropyridine (Synthesis, 1990, 6, 499-501) (20 g, 104 mmol) was added portionwise to morpholine (40 mL) at 0° C. and heated at 120° C. for 1 h. The reaction was cooled to room temperature, water (100 mL) added and the reaction extracted with DCM (3×150 mL). The organics were dried (MgSO4), filtered, and the solvent removed under reduced pressure to give the product as a yellow solid, which was triturated with isohexane and allowed to dry under vacuum at 60° C. 1H NMR δ 8.98 (1H, d), 8.47 (1H, d), 3.74-3.69 (4H, m), 3.67-3.62 (4H, m); MS m/e MH+ 244.

reactant | 2,3-Dichloro-5-nitropyridine | 104 mmol, 20 g | ClC1=NC=C(C=C1Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | morpholine | 40 mL | N1CCOCC1 | C4H9NO
solvent | water | 100 mL | O | H2O
product | 4-(3-Chloro-5-nitropyridin-2-yl)morpholine | ClC=1C(=NC=C(C1)[N+](=O)[O-])N1CCOCC1 | C9H10ClN3O3
